delta_loaded_network - fault test
Vin A 0 DC 12
Ra A B 1390.697987
Rb B C 29.949066
Rc C A 30.383948
Rload B 0 29.702714
.op
.control
run
print v(A) v(B) v(C)
print @ra[i] @rb[i] @rc[i] @rload[i]
.endc
.end
